US07723350B2
HCl (4.0 N in dioxane, 10 mL, 40 mmol, 7.1 equiv) was added to a solution of 1,1-dimethylethyl 4-(4-chloro-2-fluorophenyl)-4-cyano-1-piperidinecarboxylate (1.9 g, 5.6 mmol, 1 equiv) in 1,4-dioxane (25 mL) at 23° C. The resulting solution was warmed to 45° C. and stirred for 1 hour (white precipitation formed). The suspension was concentrated to afford 4-(4-chloro-2-fluorophenyl)-4-piperidinecarbonitrile as a pale-yellow solid. EtOH (1.6 mL, 38.1 mmol, 6.8 equiv) was slowly added to a suspension of lithium aluminium hydride (LAH) (1.15 g, 30.3 mmol, 5.4 equiv) in glyme (16 mL) at 0° C. The resulting suspension was heated to reflux and stirred for 5 min. A suspension of the newly prepared 4-(4-chloro-2-fluorophenyl)-4-piperidinecarbonitrile in glyme (10 mL) was added in portions. The resulting brown suspension was refluxed for 1 h, then cooled to 0° C. Water (8 mL) was added slowly at 0° C. and the resulting suspension was warmed to room temperature and stirred for 30 min. The suspension was filtered through Celite pad and the solid was rinsed with CH2Cl2 (200 mL). The filtrate was dried over anhydrous potassium carbonate. The dried solution was concentrated. The residue was purified by reverse phase C18 column to afford 6-chloro-1,2-dihydrospiro[indole-3,4′-piperidine] as a white powder (1.2 g, 5.4 mmol, 96%). MS (ES) m/e 223 [M+H]+.

reactant | HCl | 40 mmol, 4.0 N, 10 mL, 7.1 equiv | Cl | ClH
reactant | 1,1-dimethylethyl 4-(4-chloro-2-fluorophenyl)-4-cyano-1-piperidinecarboxylate | 5.6 mmol, 1.9 g, 1 equiv | ClC1=CC(=C(C=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N)F | C17H20ClFN2O2
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 4-(4-chloro-2-fluorophenyl)-4-piperidinecarbonitrile | ClC1=CC(=C(C=C1)C1(CCNCC1)C#N)F | C12H12ClFN2
